US06835732B2
5-Methyl-thiophene-2-carboxylic acid (4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide
Using 5-methyl-thiophene-2-carbonyl chloride and 2-amino-4-methoxy-7-morpholin-4-yl-benzothiazol the title compound was obtained as a yellow solid in 97% yield. MS: m/e=390 (M+H+).

reactant | 5-methyl-thiophene-2-carbonyl chloride | CC1=CC=C(S1)C(=O)Cl | C6H5ClOS
reactant | 2-amino-4-methoxy-7-morpholin-4-yl-benzothiazol | NC=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC | C12H15N3O2S
product | 5-Methyl-thiophene-2-carboxylic acid (4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-amide | 97% yield | COC1=CC=C(C2=C1N=C(S2)NC(=O)C=2SC(=CC2)C)N2CCOCC2 | C18H19N3O3S2
